US04835166
5-Benzylamino-2-oxindole
By reaction of 5-amino-2-oxindole with benzaldehyde using the procedure of Example 1, the title compound was prepared.

reactant | 5-amino-2-oxindole | NC=1C=C2CC(NC2=CC1)=O | C8H8N2O
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | 5-Benzylamino-2-oxindole | C(C1=CC=CC=C1)NC=1C=C2CC(NC2=CC1)=O | C15H14N2O
